Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
nausea, abdominal discomfort
 
Major Surgical or Invasive Procedure:
EUS with pancreas/liver biopsy

 
History of Present Illness:
___ hx of htn, bipolar disorder presenting with early
satiety, abdominal discomfort, and nausea. He describes
intermittent nausea, and abdominal discomfort radiating to his
back, progressive over the preceding week. Pain reaches ___ at
its worst, sometimes exacerbated by food. He recently started a
medication for nausea and abdominal discomfort, with some 
relief,
although he cannot recall the name of this medication. He denies
emesis, diarrhea, constipation, dysuria. Pt reports "severe lyme
disease," diagnosed first ___ years prior to presentation, and
notes unintentional weight loss since that time, approx. 22 lbs.
He also endorses an episode of syncope on the day of
presentation. He describes being in his walk in closet when his
abdominal pain, radiating to his back, increased. He became
lightheaded, then fell to the ground, hitting the L aspect of 
his
head. He is unsure if he lost consciousness, but denies 
preceding
chest pain, palpitations, SOB, or incontinence of bowel or
bladder. He denies being confused after the event, and believes
that he was on the ground for a brief period, before being able
to get himself up.

He presented to ___ after this fall, where imaging
revealed a pancreatic head mass; he was transferred to the ___
ED for expedited evaluation of this mass. 

In the ___ ED:
VS 97.5, 98, 124/78, 98% RA

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Hypertension
Bipolar disorder
Colonic polyps
Diverticulosis
?MI - pt reports an MI treated at ___ ___ years ago

 
Social History:
___
Family History:
 Father died at ___ of a stroke.  One
sister has
been treated for colon cancer.  Mother survived until ___.  
___
disease in the family as well as hypertension.

 
Physical Exam:
Admission physical exam
VS: 98.3PO 139 / 80 66 19 97 RA  
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Distant heart sounds, regular rate and rhythm
without murmurs, rubs, or gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, able to state months of the year forwards and
backwards, cranial nerves II-XII intact, strength ___
throughout, gait deferred
PSYCH: tangential speech, otherwise normal mood and affect

Discharge physical exam
VS: 97.6 PO 155 / 87 66 16 100 Ra  
GEN: Well appearing in NAD
HEENT/Neck: NC/AT, external ear intact, anicteric sclera, MMM, 
OP
clear
NECK: supple full ROM, no LAD appreciated
CV: RRR no m/r/g, no carotid bruits appreciated
PULM: CTAB no wheezes, rales, or crackles.  Symmetric expansion
GI: soft NT/ND +BS no rebound or guarding
GU: No CVA tenderness, no Foley
EXT: warm well perfused, no pitting edema
SKIN: no rashes or lesions noted, no ecchymoses or petechiae
NEURO: alert and oriented.  Fluent speech.  CN II-XII intact.  
No
focal deficits on strength testing

 
Pertinent Results:
Admission labs
___ 07:45AM BLOOD WBC-10.7* RBC-4.68 Hgb-14.3 Hct-41.2# 
MCV-88 MCH-30.6 MCHC-34.7 RDW-11.9 RDWSD-38.1 Plt ___
___ 07:45AM BLOOD Glucose-158* UreaN-25* Creat-1.0 Na-140 
K-4.0 Cl-100 HCO3-26 AnGap-14
___ 07:45AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.1
___ 07:45AM BLOOD ALT-37 AST-26 LD(

Discharge labs
___ 07:28AM BLOOD WBC-8.8 RBC-5.03 Hgb-15.4 Hct-44.2 MCV-88 
MCH-30.6 MCHC-34.8 RDW-11.7 RDWSD-37.3 Plt ___
___ 07:28AM BLOOD Glucose-141* UreaN-11 Creat-0.6 Na-142 
K-4.2 Cl-100 HCO3-29 AnGap-13
___ 07:28AM BLOOD ALT-43* AST-30 AlkPhos-112 TotBili-0.7
___ 07:28AM BLOOD CEA-3.7

Imaging
The left atrium is elongated. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 56 %). The estimated cardiac index is normal (>=2.5L/min/m2). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Mild (1+) aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The tricuspid 
valve leaflets are mildly thickened. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

 IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. Mild aortic 
regurgitation. Mild pulmonary hypertension.  

EUS:
Impression: •EUS was performed using a linear echoendoscope at 
___ MHz frequency: The head and uncinate pancreas were imaged 
from the duodenal bulb and the second / third duodenum. The body 
and tail [partially] were imaged from the gastric body and 
fundus. 
•Pancreas mass: A 4.4 cm X 3.6 cm ill-defined mass was noted in 
the uncinate of the pancreas. The mass was hypoechoic and 
heterogenous in echotexture. The borders of the mass were 
irregular and poorly defined. Fine needle biopsies with 22-gauge 
Sharkcore needle was performed of the pancreas mass after an 
avascular path was determined using color doppler. Four needle 
passes were made into the pancreas uncinate mass
•Multiple liver lesions were found which were high suspicious 
for metastatic lesions. Fine needle biopsies with 22-gauge 
Sharkcore needle was performed of the liver mass after an 
avascular path was determined using color doppler. Four needle 
passes were made into the liver mass.
•Pancreas parenchyma: The parenchyma in the uncinate, head, body 
and tail of the pancreas was homogenous, with a normal “salt and 
pepper” appearance. 
•Pancreas duct: the pancreas duct measured 2 mm in maximum 
diameter in the body of the pancreas. The duct was normal in 
echotexture and contour. No intra-ductal stones were noted. No 
dilated side-branches were noted. 
•Bile duct: the bile duct was unable to be visualized in the 
head of the pancreas
•Pancreas head cyst: A 2 cm X 3 cm microcystic lesion was seen 
in the head of the pancreas. These appeared most compatible with 
a serous cystadenoma. No intrinsic mass or debris were noted 
within the cyst.
•Otherwise normal upper eus to third part of the duodenum
 

Recommendations: •Clear liquid diet when awake, then advance 
diet as tolerated.
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
•Your pathology results will be sent to you and your referring 
doctor as soon as they are available. Please call Dr. ___ 
office (___) in 10 days if you have not received 
notification.
 

 
Brief Hospital Course:
___ hx of htn, bipolar disorder presenting with early satiety, 
abdominal discomfort, and nausea, found to have pancreatic head 
mass, admitted for expedited evaluation and presentation for 
syncope and fall.

Pancreatic head mass
Nausea/abdominal pain:
Mass identified on CT with liver lesions concerning for 
metastatic disease. No evidence of cholestasis.  DDx includes 
malignancy (adenocarcinoma, neuroendocrine, lymphoma), less 
likely autoimmune pancreatitis.  he underwent EUS noted above 
with bx of pancreas and liver lesions.  He tolerated the 
procedure well and was discharged with close MDC follow up.  CEA 
wnl, ___ pending and bx pending on discharge.

Syncope:
History does not suggest serious cardiac process but rather 
vasovagal related fall.  Echo reviewed.  EKG reviewed.  his QTc 
is mildly prolonged but on tele no evidence of arrhythmia
- Appreciate cardiology input
- Avoid QTc prolonging agents going forward and trend
- Ambulate

___: 
Admission creatinine at OSH went to 1.7 from baseline of 0.7. 
This has improved to 1.0 with fluids showing it was likely of 
pre-renal etiology.

Bipolar disorder/Depression: 
Pt reports that his disease has been stable on Depakote, but has 
not been taking for 3 days prior to admission ___ nausea. 
- Resumed home Depakote
- Continued home Desvenlafaxine (taking own home med)

Hypertension:
- Resumed Lisinopril and HCTZ on discharge

Care Planning/Code status: FULL - briefly discussed on 
admission, pt states that he is in the process of discussing 
these issues with his wife

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Metoclopramide 10 mg PO ASDIR 
2. Omeprazole 20 mg PO DAILY 
3. Divalproex (DELayed Release) 250 mg PO BID 
4. desvenlafaxine 50 mg oral DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
over the counter  
2.  desvenlafaxine 50 mg oral DAILY  
3.  Divalproex (DELayed Release) 250 mg PO BID  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  Metoclopramide 10 mg PO ASDIR  
7.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall/syncope
Pancreatic mass
Liver masses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were initially admitted due to a fall. Imaging done led to a 
discovery of a pancreatic mass and liver lesions. Biopsies were 
obtained and you will follow up in clinic later this week to 
discuss these results.

You will be following up with your doctors for further details 
regarding treatment

It was a pleasure being part of your care.
Your ___ team
 
Followup Instructions:
___